US04558134
2-(3,4-Dichlorophenoxy)-3-dimethylaminopropenal (13 g), malonamide (5.6 g), and t-BuOK (6.2 g) were mixed in 50 ml of DMSO and heated at 45° C. for 30 minutes. This mixture was then stirred at room temperature for an additional 24 hours after which it was poured into 200 g of an ice-water mixture and acidified with concentrated HCl. A solid formed which was collected by centrifugation, vacuum dried, and recrystallized from 2-propanol to give 6.5 g of the desired 5-(3,4-dichlorophenoxy)-2-hydroxy-3-pyridinecarboxamide, m.p. 246°-249° C.

reactant | 2-(3,4-Dichlorophenoxy)-3-dimethylaminopropenal | 13 g | ClC=1C=C(OC(C=O)=CN(C)C)C=CC1Cl | C11H11Cl2NO2
reactant | malonamide | 5.6 g | C(CC(=O)N)(=O)N | C3H6N2O2
reactant | t-BuOK | 6.2 g | CC(C)(C)[O-].[K+]
reactant | HCl | Cl | ClH
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 5-(3,4-dichlorophenoxy)-2-hydroxy-3-pyridinecarboxamide | 6.5 g | ClC=1C=C(OC=2C=C(C(=NC2)O)C(=O)N)C=CC1Cl | C12H8Cl2N2O3
